US08076359B2
Step 5: N-[3-{[tert-Butyl(dimethyl)silyl]oxy}-5-(3-methoxypropyl)benzyl]cyclo-propanamine
To a solution of N-{3-{[tert-butyl(dimethyl)silyl]oxy}-5-[(1E)-3-methoxyprop-1-en-1-yl]benzyl}cyclopropanamine from the previous step (1 eq.) in EtOAc (0.04 M) was added 10% palladium on activated carbon (10 mol %). The vessel was evacuated and back filled with hydrogen. The reaction suspension was then stirred under a balloon atmosphere of hydrogen for 1.5 h. The reaction was diluted with DCM and filtered through a bed of celite. The insolubles were further washed with EtOAc and methanol. Concentration of the filtrate in vacuo afforded the title compound amine 1 as a colorless oil.

reactant | N-{3-{[tert-butyl(dimethyl)silyl]oxy}-5-[(1E)-3-methoxyprop-1-en-1-yl]benzyl}cyclopropanamine | [Si](C)(C)(C(C)(C)C)OC=1C=C(CNC2CC2)C=C(C1)\C=C\COC | C20H33NO2Si
solvent | EtOAc | 0.04 M | CCOC(=O)C | C4H8O2
catalyst | palladium on activated carbon | [Pd] | Pd
product | N-[3-{[tert-Butyl(dimethyl)silyl]oxy}-5-(3-methoxypropyl)benzyl]cyclo-propanamine | [Si](C)(C)(C(C)(C)C)OC=1C=C(CNC2CC2)C=C(C1)CCCOC | C20H35NO2Si
